US05886014
5-[4-(6-Methoxy-1-methylbenzimidazol-2-ylmethoxy)benzyl]thiazolidine-2,4-dione (Compound No. 1-49)
A mixture of 21.8 g of 5-methoxy-N-methyl-1,2-phenylenediamine (prepared as described in Preparation 9), 63.4 g of 5-(4-methoxycarbonylmethoxybenzyl)thiazolidin-2,4-dione (prepared as described in Preparation 21), 250 ml of 1,4-dioxane and 750 ml of concentrated aqueous hydrochloric acid was heated under reflux for 60 hours. At the end of this time, the reaction mixture was cooled with ice, after which the solid matter was collected by filtration. 800 ml of a 5% w/v aqueous solution of sodum hydrogencarbonate was added to this matter, and the resulting mixture was stirred at room temperature for 2 hours. Insoluble materials were then collected by filtration and dissolved in a mixture of 1000 ml of dimethylformamide and 200 ml of methanol. The resulting solution was decolorized by treatment with activated charcoal, which was then removed by filtration. The filtrate was then concentrated by evaporation under reduced pressure to a volume of about 50 ml. The resulting concentrate was added to 750 ml of diethyl ether and the solution thus obtained was allowed to stand for 2 days. At the end of this time, the resulting precipitate was collected by filtration, to give 20.1 g of the title compound, melting at 267°-27120 C. and having an Rf value=0.68 (on thin layer chromatography on silica gel; using a developing solvent of methylene chloride containing 5% v/v ethanol).

reactant | 5-methoxy-N-methyl-1,2-phenylenediamine | 21.8 g | COC=1C=CC(=C(C1)NC)N | C8H12N2O
reactant | 5-(4-methoxycarbonylmethoxybenzyl)thiazolidin-2,4-dione | 63.4 g | COC(=O)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C13H13NO5S
reactant | hydrochloric acid | 750 ml | Cl | ClH
solvent | 1,4-dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | 5-[4-(6-Methoxy-1-methylbenzimidazol-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | 20.1 g | COC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1 | C20H19N3O4S
